US09371322B2
Synthesis of 9-(benzo[d]thiazol-6-ylsulfonyl)-3-(2-(3,4-dimethoxyphenoxy)-ethyl)-3,9-diazabicyclo[3.3.1]nonan-2-one 4c
3-(2-(3,4-Dimethoxyphenoxyl)ethyl)-3,9-diazabicyclo[3.3.1]nonan-2-one (32 mg, 0.1 mmol) in 3 ml DCM was treated with DIPEA (15 mg, 0.12 mmol) and stirring for 30 min at room temperature followed by addition of 1,3-benzothiazole-6-sulfonyl chloride (28 mg, 0.12 mmol). The reaction was stirred overnight at room temperature, the reaction was quenched with saturated NH4Cl solution (5 ml), extracted with DCM (4×10 ml). The organic layers were dried over MgSO4 and concentrated in vacuo. The mixture was purified with Preparative-TLC in 10% MeOH in CHCl3.

reactant | 3-(2-(3,4-Dimethoxyphenoxyl)ethyl)-3,9-diazabicyclo[3.3.1]nonan-2-one | 0.1 mmol, 32 mg | COC=1C=C(OCCN2C(C3CCCC(C2)N3)=O)C=CC1OC | C17H24N2O4
reactant | DIPEA | 0.12 mmol, 15 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 1,3-benzothiazole-6-sulfonyl chloride | 0.12 mmol, 28 mg | S1C=NC2=C1C=C(C=C2)S(=O)(=O)Cl | C7H4ClNO2S2
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
product | 9-(benzo[d]thiazol-6-ylsulfonyl)-3-(2-(3,4-dimethoxyphenoxy)-ethyl)-3,9-diazabicyclo[3.3.1]nonan-2-one | S1C=NC2=C1C=C(C=C2)S(=O)(=O)N2C1C(N(CC2CCC1)CCOC1=CC(=C(C=C1)OC)OC)=O | C24H27N3O6S2
